US07276606B2
(2-Bromo-5-methoxy-phenyl)-[6-(1H-indol-3-yl)-6H-phenanthridin-5-yl]-methanone was prepared from phenanthridine, 2-bromo-5-methoxybenzoyl chloride, and indole according to GP 2. Yield, 30%. (+)-ESI-MS: m/z=509 [M(79Br)+H]+, 392 [M(79Br)-indole+H]+.

reactant | phenanthridine | C1=CC=CC2=NC=C3C=CC=CC3=C12 | C13H9N
reactant | 2-bromo-5-methoxybenzoyl chloride | BrC1=C(C(=O)Cl)C=C(C=C1)OC | C8H6BrClO2
reactant | indole | N1C=CC2=CC=CC=C12 | C8H7N
product | (2-Bromo-5-methoxy-phenyl)-[6-(1H-indol-3-yl)-6H-phenanthridin-5-yl]-methanone | BrC1=C(C=C(C=C1)OC)C(=O)N1C=2C=CC=CC2C2=CC=CC=C2C1C1=CNC2=CC=CC=C12 | C29H21BrN2O2
